US06248750B1
N-(2-Fluorobenzyloxy)-1,2,3,4-tetrahydro-9-acridinamine
A mixture of 9-chloro-1,2,3,4-tetrahydroacridine (6.18 g) and O-(2-fluorobenzyl)hydroxylamine hydrochloride (5.5 g) in 125 ml of n-propanol was heated at reflux for 20 hours. The reaction mixture was then added to an iced sodium bicarbonate solution and extracted with ethyl acetate (3×). The combined organics were washed with water and dried (saturated NaCl, MgSO4).

reactant | 9-chloro-1,2,3,4-tetrahydroacridine | 6.18 g | ClC=1C2=CC=CC=C2N=C2CCCCC12 | C13H12ClN
reactant | O-(2-fluorobenzyl)hydroxylamine hydrochloride | 5.5 g | Cl.FC1=C(CON)C=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | n-propanol | 125 ml | C(CC)O | C3H8O
product | N-(2-Fluorobenzyloxy)-1,2,3,4-tetrahydro-9-acridinamine | FC1=C(CONC=2C3=CC=CC=C3N=C3CCCCC23)C=CC=C1 | C20H19FN2O
